US08735440B2
Step 1. tert-butyl 8-bromo-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate
A solution of 8-bromo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (813 mg, 3.2 mmol), dimethylaminopyridine (53.5 mg, 0.14 mmol) and di-tert butyl dicarbonate (1.46 g, 6.7 mmol) in methylene chloride (10 ml) and methanol (5.0 ml) with triethlamine (0.95 ml, 6.8 mmol) was stirred overnight. The reaction was condensed to a dark red semi-solid before dilution with methylene chloride. The organic layer was washed twice with water and brine, then dried over Na2SO4, filtered and condensed. The crude reaction product was purified in 50% EtOAc/hexanes to give 931.8 mg of product (82%). 1H NMR (CDCl3, 500 MHz) δ=7.88 (bs, 1H), 7.58 (s, 1H), 7.22 (dd, 2H, J=8.3, 28.1 Hz), 4.58 (s, 2H), 3.82 (s, 2H), 2.83 (s, 2H), 1.51 (s, 9H). (ESI (m/z): 350.8 (M+1)+.

reactant | 8-bromo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 3.2 mmol, 813 mg | BrC1=CC=2C3=C(NC2C=C1)CCNC3 | C11H11BrN2
reactant | dimethylaminopyridine | 0.14 mmol, 53.5 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert butyl dicarbonate | 6.7 mmol, 1.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethlamine | 6.8 mmol, 0.95 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 5.0 ml | CO | CH4O
product | tert-butyl 8-bromo-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 931.8 mg, 82% | BrC1=CC=2C3=C(NC2C=C1)CCN(C3)C(=O)OC(C)(C)C | C16H19BrN2O2
